US04475992
A 198 mg quantity of 2,4,6-trimethoxy-4-methyl-2,5-cyclohexadienone and 10 ml of benzene were dissolved in 10 ml of concentrated sulfuric acid, and stirred at room temperature for 2 hours. Thereafter the solution was neutralized by adding sodium hydrogen carbonate to the solution and filtered. The filtrate was concentrated at reduced pressure. The residue was extracted with dichloromethane, the solvent was removed at reduced pressure and the resulting residue was concentrated, thereby recovering 158 mg of an oily crude product. The crude product was purified by silica gel column chromatography using a 20:1 benzene-ethyl acetate mixture, giving 153 mg of 2,6-dimethoxy-4-methylidene-2,5-cyclohexadienone in 92% of theoretical yield. The compound thus obtained was identified by NMR.

reactant | 2,4,6-trimethoxy-4-methyl-2,5-cyclohexadienone | COC=1C(C(=CC(C1)(C)OC)OC)=O | C10H14O4
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dimethoxy-4-methylidene-2,5-cyclohexadienone | 153 mg | COC=1C(C(=CC(C1)=C)OC)=O | C9H10O3
